US07977371B2
2-Aminocarbonylamino-5-(2-propylaminocarbonyloxyphenyl)pyrrole-3-carboxamide (Compound No. 6-1)
Triethylamine (43 μL, 0.31 mmol) and propyl isocyanate (17 μL, 0.18 mmol) were added to a solution of 2-aminocarbonylamino-5-(2-hydroxyphenyl)pyrrole-3-carboxamide (Compound No. 3-1, 40 mg, 0.15 mmol) in anhydrous N,N-dimethylformamide (2 mL), and the mixture was stirred overnight at room temperature. After the reaction solution was concentrated in vacuo, the residue was purified by silica gel column chromatography to give the target compound (29 mg) as a pale blue solid (Yield 54%).

reactant | Triethylamine | 0.31 mmol, 43 μL | C(C)N(CC)CC | C6H15N
reactant | propyl isocyanate | 0.18 mmol, 17 μL | C(CC)N=C=O | C4H7NO
reactant | 2-aminocarbonylamino-5-(2-hydroxyphenyl)pyrrole-3-carboxamide | 0.15 mmol, 40 mg | NC(=O)NC=1NC(=CC1C(=O)N)C1=C(C=CC=C1)O | C12H12N4O3
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 2-Aminocarbonylamino-5-(2-propylaminocarbonyloxyphenyl)pyrrole-3-carboxamide | 29 mg, Yield 54% | NC(=O)NC=1NC(=CC1C(=O)N)C1=C(C=CC=C1)OC(=O)NCCC | C16H19N5O4
